### PR TITLE
feat(OEIS/A034693): prove exists_k_best_possible

### PR DESCRIPTION
**Pull request by c0mpli**
Closes `exists_k_best_possible` via a `Real.nthRoot` bound + `interval_cases`. Verified clean under the project linters.

### CODE REVIEW

File: FormalConjectures/OEIS/34693.lean [hunk 1]
```diff
@@ -69,7 +69,24 @@ theorem exists_k_stronger {n : ℕ} (hn : 0 < n) : ∃ k : ℕ,
 @[category research solved, AMS 11]
 theorem exists_k_best_possible : ∃ n > (0 : ℕ), ∀ (k : ℕ),
     k < 1 + (Real.nthRoot 100 n) ^ 74 → ¬(n * k + 1).Prime := by
-  sorry
+  refine ⟨19, by norm_num, ?_⟩
+  have hy : Real.nthRoot 100 ((19:ℕ):ℝ) = (19:ℝ) ^ (((100:ℕ):ℝ))⁻¹ := by
+    simp only [Real.nthRoot]
+    rw [if_pos (by decide : Even 100)]
+    norm_num
+  have h100 : (Real.nthRoot 100 ((19:ℕ):ℝ)) ^ (100:ℕ) = 19 := by
```
Comment (mo271) [inline FormalConjectures/OEIS/34693.lean]:
```suggestion
  have h100 : (Real.nthRoot 100 ((19 : ℕ) : ℝ)) ^ (100 : ℕ) = 19 := by
```
and similar more mathlib-like formatting throughout please!

**Review by mo271 — COMMENTED** [review]
LGTM, except for the formatting

**Comment by c0mpli** [comment]
Done — added spaces around `:` in the type ascriptions throughout (`(19 : ℕ)`, `(100 : ℕ)`, `(k : ℝ)`, …). Thanks for the review!

**Review by mo271 — APPROVED** [review]
Thanks, LGTM
